US07759379B2
N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-(4,4-dimethyl-piperidin-1-yl)-acetamide
The title compound was prepared as described for example 1e using 100 mg N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-chloro-acetamide (raw material, as described above) and 15 mg 4,4-dimethylpiperidine. Yield: 2.5 mg

reactant | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-chloro-acetamide | 100 mg | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(CCl)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | C20H18ClF3N4O4
reactant | 4,4-dimethylpiperidine | 15 mg | CC1(CCNCC1)C | C7H15N
product | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-(4,4-dimethyl-piperidin-1-yl)-acetamide | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(CN1CCC(CC1)(C)C)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | C27H32F3N5O4
